US08198311B2
To N1-(4-fluorophenyl)-5-aminoindazole (25.6 g, 113 mmol) suspended in 500 mL 6 M HCl and cooled to 0° C. was added a solution of sodium nitrite (8.2 g, 119 mmol) dissolved in 75 mL water, portionwise. After 3 h, potassium iodide (22.5 g, 136 mmol) dissolved in 80 mL water was added and the reaction was stirred overnight. The next day, the reaction was transferred to a beaker and carefully quenched by adding solid sodium carbonate. After neutralization and addition of water, the aqueous phase was extracted 4× EtOAc. The combined organic extracts were dried over MgSO4, filtered, concentrated, and filtered from hot EtOAc. The filtrate was concentrated and purified on a 330 g SiO2 MPLC column using DCM. Obtained 13.2 g of 1-(4-fluorophenyl)-5-iodo-1H-indazole (39%). MS found: (M+H)+=339.

reactant | N1-(4-fluorophenyl)-5-aminoindazole | 113 mmol, 25.6 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)N | C13H10FN3
reactant | sodium nitrite | 119 mmol, 8.2 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 136 mmol, 22.5 g | [I-].[K+]
solvent | HCl | 6 M, 500 mL | Cl | ClH
solvent | water | 75 mL | O | H2O
solvent | water | 80 mL | O | H2O
product | 1-(4-fluorophenyl)-5-iodo-1H-indazole | 13.2 g, 39% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)I | C13H8FIN2
